US05280032
1.40 g of 1-acetoxy-1-(3-chlorophenyl)-2-(2-methanesulfonyloxyethoxy)ethane was dissolved in 7 ml of N,N-dimethylformamide. To the solution were added 0.69 ml of N-methylpiperazine and 1.03 g of potassium carbonate. The mixture was stirred for 3 hours at 80° C. The reaction mixture was cooled and added to a mixture of 30 ml of ice water and 30 ml of diethyl ether. The organic layer was separated. The aqueous layer was extracted with 20 ml of diethyl ether. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was mixed with 7 ml of methanol and 45 mg of sodium methoxide. The mixture was allowed to stand overnight at room temperature. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 20 ml of ethyl acetate and 10 ml of water. The organic layer was separated. The aqueous layer was extracted with 20 ml of ethyl acetate. The extract was combined with the previously separated organic layer. The combined organic layer was washed with a saturated aqueous sodium chloride solution and then purified by column chromatography (eluant: chloroform/methanol=10/1). To the resulting oily product were added 10 ml of ethanol and 1.2 ml of a 6N dry hydrogen chloride-ethanol solution in this order. To the resulting mixture was added 10 ml of diethyl ether. The mixture was stirred for 30 minutes. The resulting crystals were collected by filtration, washed with a mixture of 2 ml of ethanol and 2 ml of diethyl ether, and dried to obtain 770 mg of 1-(3-chlorophenyl)-2-[2-(4-methylpiperazin-1-yl)ethoxy]ethanol dihydrochloride (compound No. 158).

reactant | 1-acetoxy-1-(3-chlorophenyl)-2-(2-methanesulfonyloxyethoxy)ethane | 1.40 g | C(C)(=O)OC(COCCOS(=O)(=O)C)C1=CC(=CC=C1)Cl | C13H17ClO6S
reactant | N-methylpiperazine | 0.69 ml | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 1.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium methoxide | 45 mg | C[O-].[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 7 ml | CO | CH4O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-(3-chlorophenyl)-2-[2-(4-methylpiperazin-1-yl)ethoxy]ethanol dihydrochloride | 770 mg | Cl.Cl.ClC=1C=C(C=CC1)C(COCCN1CCN(CC1)C)O | InChI=1S/C15H23ClN2O2.2ClH/c1-17-5-7-18(8-6-17)9-10-20-12-15(19)13-3-2-4-14(16)11-13;;/h2-4,11,15,19H,5-10,12H2,1H3;2*1H
